US07423052B2
Description 118. (S)-2-(2-Oxo-2-phenyl-ethoxycarbonylmethyl)-pyrrolidine-1-carboxylic acid benzyl ester
The title compound (0.700 g) was prepared from (S)-2-carboxymethyl-pyrrolidine-1-carboxylic acid benzyl ester (1.00 g, Aoyama et al, Chem. Pharm. Bull., 3249, 29,11,1981) and 2-bromoacetophenone (0.760 g) according to the method of description 36.

reactant | (S)-2-carboxymethyl-pyrrolidine-1-carboxylic acid benzyl ester | 1.00 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)CC(=O)O | C14H17NO4
reactant | 2-bromoacetophenone | 0.760 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
product | (S)-2-(2-Oxo-2-phenyl-ethoxycarbonylmethyl)-pyrrolidine-1-carboxylic acid benzyl ester | 0.700 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)CC(=O)OCC(C1=CC=CC=C1)=O | C22H23NO5
